US08865736B2
3-(5-Cyclohexyl-1H-inden-2-ylmethoxy)-2,6-difluoro-benzamide
To a solution of 3-(5-Cyclohex-1-enyl-1H-inden-2-ylmethoxy)-2,6-difluoro-benzamide (0.01 g, 0.25 mmol) in 5 ml of anhydrous methanol was added Pd—C (10%, 100 mg). The reaction mixture was stirred at 25° C. for 48 h under hydrogen atmosphere. The reaction mixture was filtered over the bed of celite and evaporated to dryness under reduced pressure to give the title compound as white solid (0.01 g, 10%). 1H NMR (DMSO-d6, 400 MHz); δ 1.40 (m, 6H), 1.72 (m, 4H), 2.63 (m, 1H), 5.66 (s, 2H), 7.09 (m, 1H), 7.35 (m, 2H), 7.83 (br s, 1H), 7.89 (d, J=8.40 Hz, 1H), 7.99 (d, J=8.40 Hz, 1H) and 8.18 (br s, 1H). MS ES+ (403.33), HPLC (method II) Rt=18.76 min.

reactant | 3-(5-Cyclohex-1-enyl-1H-inden-2-ylmethoxy)-2,6-difluoro-benzamide | 0.25 mmol, 0.01 g | C1(=CCCCC1)C=1C=C2C=C(CC2=CC1)COC=1C(=C(C(=O)N)C(=CC1)F)F | C23H21F2NO2
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 3-(5-Cyclohexyl-1H-inden-2-ylmethoxy)-2,6-difluoro-benzamide | 0.01 g, 10% | C1(CCCCC1)C=1C=C2C=C(CC2=CC1)COC=1C(=C(C(=O)N)C(=CC1)F)F | C23H23F2NO2
